US09422281B2
N,N-Diisopropylethylamine (0.973 mL, 5.57 mmol) was added to a solution of (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.500 g, 1.858 mmol) and isopropyl chloroformate (1.0 M in toluene, 2.79 mL, 2.79 mmol) in 1,2-dichloroethane (10.0 mL), and the mixture stirred at 50° C. for 16 h. The reaction mixture was concentrated to afford a yellow oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 0-50% ethyl acetate-hexane) to afford (S)-isopropyl 4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.558 g, 85%) as an off-white solid. MS (ESI, pos. ion) m/z 355, 357 [M+1]+.

reactant | N,N-Diisopropylethylamine | 5.57 mmol, 0.973 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 1.858 mmol, 0.500 g | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C11H13BrN2O
reactant | isopropyl chloroformate | 2.79 mmol, 1.0 M, 2.79 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | 1,2-dichloroethane | 10.0 mL | ClCCCl | C2H4Cl2
product | (S)-isopropyl 4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.558 g, 85% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC(C)C)C | C15H19BrN2O3
